US08609680B2
A solution of 6-methyl-2,3-dihydro-[1,4]dioxino[2,3-b]pyridine 5-oxide (60 g, 0.36 mol) in Ac2O (500 mL) was stirred at reflux for 5 hours. The reaction was cooled and the solvent was removed in vacuo to yield (2,3-dihydro-[1,4]dioxino[2,3-b]pyridin-6-yl)methyl acetate (75 g, 99%) as a dark oil, which was used in the next step without further purification.

reactant | 6-methyl-2,3-dihydro-[1,4]dioxino[2,3-b]pyridine 5-oxide | 0.36 mol, 60 g | CC1=CC=C2C(=[N+]1[O-])OCCO2 | C8H9NO3
reactant | Ac2O | 500 mL | CC(=O)OC(=O)C | C4H6O3
product | (2,3-dihydro-[1,4]dioxino[2,3-b]pyridin-6-yl)methyl acetate | 75 g, 99% | C(C)(=O)OCC1=CC=C2C(=N1)OCCO2 | C10H11NO4
